### PR TITLE
[Merged by Bors] - perf: improves the performance of the `Repr (Equiv.Perm α)` instance (3/4)

### PR DESCRIPTION
**Pull request by Komyyy**
`instance [Fintype α] [Repr α] : Repr (Equiv.Perm α)` uses functions depends on `[DecidableRel (SameCycle (f : Equiv.Perm α))]`.

If `α` is `Fintype` where `Fintype.card α = n`, it is sufficient for deciding `SameCycle f x y` to apply `f` to `x` for `n` times and check if `y` appears in them.

However, currently, `f` is applied for `Fintype.card (Equiv.Perm α) = n!` times!

😃 < You know, factorial is written as "!"
🥶 😰 🫥 🙉

This is because, some of lemmas required to prove that it is sufficient for deciding `SameCycle f x y` to apply `f` to `x` for `n` times, uses the formula `(cycleOf (f : Equiv.Perm α) x).support : Finset α`.

`(g : Equiv.Perm α).support` depends on `[Fintype α] [DecidableEq α]`, and `cycleOf (f : Equiv.Perm α) x` depends on `[DecidableRel (SameCycle (f : Equiv.Perm α))]`, so these lemmas depends on `[Fintype α] [DecidableEq α] [DecidableRel (SameCycle (f : Equiv.Perm α))]`.

If we could prove that fact without these lemmas and define before these lemmas, the imstance argument `[DecidableRel (SameCycle (f : Equiv.Perm α))]` in these lemmas are not required anymore.

And, if we use `n!` instead of `n`, these lemmas are not required anymore!

😃 < You know, factorial is written as "!"
👹 👹 👹 👹

So the current Mathlib apply `f` to `x` for `n!` times, but this is clearly a performance problem.

To solve this problem, we copy these lemmas as private lemmas before `instance [Fintype α] [DecidableEq α] : DecidableRel (SameCycle (f : Equiv.Perm α))`. These lemmas depends on `[Fintype α] [DecidableEq α] [DecidableRel (SameCycle (f : Equiv.Perm α))]`.

In `instance [Fintype α] [DecidableEq α] : DecidableRel (SameCycle (f : Equiv.Perm α))`, we prove that it is sufficient for deciding `SameCycle f x y` to apply `f` to `x` for `n` times, using these lemmas with `classical`. We're proving a lemma so the computable instance is not necessary.

After define the instance, we restate the previous private lemma as global lemmas, these lemmas doesn't depend on `[DecidableRel (SameCycle (f : Equiv.Perm α))]` anymore.

And we don't have to apply `f` for `n!` times anymore!

🕳 < You know, factorial is written a-
🔘👈😉 😄 😇 🤣

---

- [x] depends on: #20538

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean [hunk 1]
```diff
@@ -518,10 +513,19 @@ def isoCycle' : { f : Perm α // IsCycle f } ≃ { s : Cycle α // s.Nodup ∧ s
...
+      (Perm.cycleFactorsFinset f).val
+      fun _ hg => (mem_cycleFactorsFinset_iff.mp (Finset.mem_def.mpr hg)).left
+    match l with
+    | []  => "1"
+    | [f] => f
+    | l   =>
+      -- multiple terms, use `*` precedence
+      (if prec ≥ 70 then Lean.Format.paren else id)
+      (Lean.Format.fill
+        (Lean.Format.joinSep l (" *" ++ Lean.Format.line)))
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Perm/Cycle/Concrete.lean:528]: Can you put this part in its own PR? The change to the repr looks good, but I'd prefer to see it with a test, and isolated from all the other computational stuff happening in this PR.

File: Mathlib/Data/List/Defs.lean [hunk 2]
```diff
@@ -549,4 +549,31 @@ def replaceIf : List α → List Bool → List α → List α
 #align list.map_with_prefix_suffix List.mapWithPrefixSuffix
 #align list.map_with_complement List.mapWithComplement
 
+/-- `iterate f a n` is `[a, f a, ..., f^[n - 1] a]`. -/
+@[simp]
+def iterate (f : α → α) (a : α) : (n : ℕ) → List α
```
Comment (eric-wieser) [inline Mathlib/Data/List/Defs.lean:554]: Is there precedent for this name in haskell or similar?

Comment (Komyyy) [reply Mathlib/Data/List/Defs.lean:554]: [iterate](https://hackage.haskell.org/package/base-4.19.1.0/docs/Prelude.html#v:iterate)

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean (hunk 1 above)
Comment (Komyyy) [reply Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]: #12611

**Comment by jcommelin** [comment]
!bench

File: Mathlib/GroupTheory/Perm/Cycle/Factors.lean [hunk 3]
```diff
@@ -42,19 +35,101 @@ section CycleOf
...
+  decidable_of_iff (y ∈ List.iterate f x (Fintype.card α)) <| by
+    simp only [List.mem_iterate, iterate_eq_pow, eq_comm (a := y)]
+    constructor
+    · rintro ⟨n, _, hn⟩
+      exact ⟨n, hn⟩
+    · intro hxy
+      by_cases hx : x ∈ f.support
+      case pos =>
+        classical
+        rcases hxy.exists_lt_card_support_cycleOfGDR_pow_eq_of_mem_support hx with ⟨i, hixy, hi⟩
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Perm/Cycle/Factors.lean:117]: This pattern seems quite strange to me; is it one we use elsewhere in mathlib?

Comment (Komyyy) [reply Mathlib/GroupTheory/Perm/Cycle/Factors.lean:117]: As far as I know, there are none.

Comment (eric-wieser) [reply Mathlib/GroupTheory/Perm/Cycle/Factors.lean:117]: Edited above with a comment suggestion

File: Mathlib/GroupTheory/Perm/Cycle/Factors.lean [hunk 4]
```diff
@@ -42,19 +35,101 @@ section CycleOf
...
 
-/-- `f.cycleOf x` is the cycle of the permutation `f` to which `x` belongs. -/
-def cycleOf (f : Perm α) (x : α) : Perm α :=
+/- This section generalizes a `(f : Perm α) → DecidableRel (SameCycle f)` instance in some
+declarations to make `cycleOf` computable.
+All declarations in this section are specialized later.
+-/
+section GeneralizedDecRel
+
+variable [(f : Perm α) → DecidableRel (SameCycle f)]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Perm/Cycle/Factors.lean:44]: What was the reason for asking for this and not the less demanding ` [DecidableRel (SameCycle f)]`?

File: Mathlib/Data/List/Iterate.lean [hunk 5]
```diff
@@ -0,0 +1,43 @@
...
+theorem iterate_eq_nil {f : α → α} {a : α} {n : ℕ} : iterate f a n = [] ↔ n = 0 := by
+  rw [← length_eq_zero, length_iterate]
+
+theorem get?_iterate (f : α → α) (a : α) :
+    ∀ (n i : ℕ), i < n → get? (iterate f a n) i = f^[i] a
+  | n + 1, 0    , _ => rfl
+  | n + 1, i + 1, h => by simp [get?_iterate f (f a) n i (by simpa using h)]
+
+@[simp]
+theorem get_iterate (f : α → α) (a : α) (n : ℕ) (i : Fin (length (iterate f a n))) :
```
Comment (eric-wieser) [inline Mathlib/Data/List/Iterate.lean:34]: nit:
```suggestion
theorem get_iterate (f : α → α) (a : α) (n : ℕ) (i : Fin (iterate f a n).length) :
```

**Review by eric-wieser — COMMENTED** [review]
If you split the `Data/List` changes to their own PR, I'd be happy to merge them quickly. I'd like to think a bit longer about what's going on with the decidable instances in the other files.

**Comment by Komyyy** [comment]
@eric-wieser #13214

File: Mathlib/GroupTheory/Perm/Cycle/Factors.lean (hunk 4 above)
Comment (Komyyy) [reply Mathlib/GroupTheory/Perm/Cycle/Factors.lean:44]: When `f : Perm α` appears as an explicit paramater after this instance, the error occurs:
```lean
variable [DecidableRel (SameCycle f)]

private def cycleOfGDR (f : Perm α) (x : α) : Perm α :=
  ofSubtype (subtypePerm f fun _ => sameCycle_apply_right.symm : Perm { y // SameCycle f x y })
-- failed to synthesize instance
--   DecidablePred fun x_1 ↦ f.SameCycle x x_1
```

Comment (Komyyy) [reply Mathlib/GroupTheory/Perm/Cycle/Factors.lean:44]: After all, any declarations in this section aren't used in computations so it's not a big issue.

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 6]
```diff
@@ -243,6 +243,17 @@ theorem SameCycle.exists_pow_eq'' [Finite α] (h : SameCycle f x y) :
     · exact ⟨i.succ, i.zero_lt_succ, hi.le, by rfl⟩
 #align equiv.perm.same_cycle.exists_pow_eq'' Equiv.Perm.SameCycle.exists_pow_eq''
 
+instance (f : Perm α) [DecidableRel (SameCycle f⁻¹)] :
+    DecidableRel (SameCycle f) := fun x y =>
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:247]: This strikes me as a bad instance, since it will try to find `DecidableRel (SameCycle f)` from `DecidableRel (SameCycle f⁻¹)` from `DecidableRel (SameCycle f⁻¹⁻¹)` from ...

Comment (Komyyy) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean]: I agree with your opinion but this isn't the change in my PR.
For the present, I remove this instance.

Comment (eric-wieser) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean]: Ah, I hadn't noticed that, sorry

**Comment by grunweg** [comment]
@Komyyy Coming here for PR triage: thanks for your PR. It currently has a merge conflict, which means it won't show up in the review queue (and is less likely to be noticed). Can you merge the `master` branch, please? If you would like help with this, feel free to ask on zulip.

**Comment by Komyyy** [comment]
@grunweg
Sorry for the lack of updates due to mental problems over the past 5 months.

**Review by YaelDillies — COMMENTED** [review]
Sorry to hear that. I hope you are faring better now!

The title of this PR says it is about `Repr`, so I would expect mostly meta code. But instead the diff is swamped with lemma moves and other unrelated changes.

Could you split off:
1. a prereq PR to perform those moves
2. a prereq PR to redefine `Cycle.toList`

**Comment by Komyyy** [comment]
@YaelDillies #20519

**Comment by YaelDillies** [comment]
Can you merge master to reduce the diff?

**Comment by Komyyy** [comment]
@YaelDillies Merged.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
